US07465731B2
To a solution of tert-butyl [(3R)-1-(3-aminobenzyl)-3-pyrrolidinyl]carbamate (659 mg) in CH2Cl2 (6.6 mL) was added pyridine (274 uL) and methanesulfonyl chloride (193 uL), which was stirred at room temperature for 20 hours. To the resultant was added H2O. The mixture was extracted with 1-butanol. The organic phase was washed brine, dried Na2SO4, filtered, and evaporated in vacuo. The residue was purified by column chromatography on silica gel to give tert-butyl [(3R)-1-{3-[(methylsulfonyl)amino]benzyl)-3-pyrrolidinyl]carbamate (845 mg) as pale yellow amorphous.

reactant | tert-butyl [(3R)-1-(3-aminobenzyl)-3-pyrrolidinyl]carbamate | 659 mg | NC=1C=C(CN2C[C@@H](CC2)NC(OC(C)(C)C)=O)C=CC1 | C16H25N3O2
reactant | pyridine | 274 uL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 193 uL | CS(=O)(=O)Cl | CH3ClO2S
reactant | H2O | O | H2O
solvent | CH2Cl2 | 6.6 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl [(3R)-1-{3-[(methylsulfonyl)amino]benzyl)-3-pyrrolidinyl]carbamate | 845 mg | CS(=O)(=O)NC=1C=C(CN2C[C@@H](CC2)NC(OC(C)(C)C)=O)C=CC1 | C17H27N3O4S
